* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 18.5
R1 n1 a 1
R2 a nc 5
V2 nc nd DC 27.1
R3 nd ne 5
V3 b ne DC 15.9
V4 nf b DC 12.1
R4 nf 0 2
.op
.print dc V(a) V(b)
.end